US04699652
A solution of 1 g of α-(3,3-diethoxy-1-propynyl)-α-(2,4-dichloro-α-methylbenzyl)-3-pyridinemethanol in 30 ml of 4N sulphuric acid is heated at 120° C. for 1.5 hours while stirring and the reaction mixture is subsequently left to cool to room temperature, neutralized with solid sodium bicarbonate and extracted with methylene chloride. The organic phase is washed three times with saturated aqueous sodium chloride solution and evaporated under reduced pressure. Thereafter, the residue is subjected to a column chromatography on silica gel using methylene chloride/ethyl acetate (4:1) as the eluent and it is recrystallized from n-hexane. In this manner there is obtained 0.4 g of 2-(2,4-dichloro-α-methylbenzyl)-2-(3-pyridyl)-3(2H)-furanone, m.p. 111°-111.5° C.

reactant | α-(3,3-diethoxy-1-propynyl)-α-(2,4-dichloro-α-methylbenzyl)-3-pyridinemethanol | 1 g | C(C)OC(C#CC(O)(C=1C=NC=CC1)C(C1=C(C=C(C=C1)Cl)Cl)C)OCC | C21H23Cl2NO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sulphuric acid | 4N, 30 ml | S(O)(O)(=O)=O | H2O4S
product | 2-(2,4-dichloro-α-methylbenzyl)-2-(3-pyridyl)-3(2H)-furanone | 0.4 g | ClC1=C(C(C)C2(OC=CC2=O)C=2C=NC=CC2)C=CC(=C1)Cl | C17H13Cl2NO2
